US04730006
(δ-fluoro-ε-carboxlysine)
3-fluoro-2,6-di-tert.-butoxycarbonylaminopimelic acid (940 mg, 2.3 mmoles) is dissolved in ether saturated with HCl gas, and the mixture is stirred overnight. The white crystals are filtered off and dissolved in isopropanol/ethanol. After filtration through a membrane filter (Millipore), propylene oxide (0.6 mL) is added. The precipitate is stirred with isopropanol and filtered off again. Crystallization from water/ethanol/isopropanol gives the pure title compound (100 mg) containing 0.2 moles of HCl.

reactant | 3-fluoro-2,6-di-tert.-butoxycarbonylaminopimelic acid | 2.3 mmoles, 940 mg | FC(C(C(=O)O)NC(=O)OC(C)(C)C)CCC(C(=O)O)NC(=O)OC(C)(C)C | C17H29FN2O8
solvent | ether | CCOCC | C4H10O
solvent | HCl | Cl | ClH
product | δ-fluoro-ε-carboxlysine | 100 mg | FC(CC[C@H](N)C(=O)O)C(N)C(=O)O | C7H13FN2O4
